US09260418B2
To a solution of (6-bromo-pyridin-3-yl)-methanol (0.614 g, 3.27 mmol) in 10 mL of THF under an atmosphere of nitrogen was added cesium carbonate (3.27 mL, 2 N aqueous, 6.53 mmol), 2-picoline-5-boronic acid pinacol ester (0.477 g, 2.18 mmol), and [1,1′-bis(diphenylphosphino)-ferrocene]dichloro-palladium(II), 1:1 complex with dichloromethane (0.178 g, 0.218 mmol). The reaction was heated at 85° C. for 1 h, cooled to rt, and diluted with dichloromethane. The organic solution was washed with water, dried over sodium sulfate, filtered, and concentrated in vacuo. The aqueous fraction was concentrated in vacuo, triturated 3× with 20% methanol in dichloromethane, and collected via filtration. The combined solids were purified via silica gel chromatography, eluting with 100% ethyl acetate to provide (6′-methyl-2,3′-bipyridin-5-yl)methanol that gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 201.1 for [M+H]+.

reactant | (6-bromo-pyridin-3-yl)-methanol | 3.27 mmol, 0.614 g | BrC1=CC=C(C=N1)CO | C6H6BrNO
reactant | cesium carbonate | 6.53 mmol, 2 N, 3.27 mL | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-picoline-5-boronic acid pinacol ester | 2.18 mmol, 0.477 g | N1=C(C=CC(=C1)B1OC(C)(C)C(C)(C)O1)C | C12H18BNO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 0.218 mmol, 0.178 g | ClCCl | CH2Cl2
product | (6′-methyl-2,3′-bipyridin-5-yl)methanol | CC1=CC=C(C=N1)C1=NC=C(C=C1)CO | C12H12N2O
